US07531545B2
Step F: 3-Cyclohexyl-N-(3,3-dimethyl-butyl)-3-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-propionamide
A mixture 3-amino-3-cyclohexyl-N-(3,3-dimethyl-butyl)-propionamide (0.57 g, 2.24 mmol), 5-nitro-2-phenoxy-pyridine-4-carbaldehyde (0.57 g, 2.35 mmol), and dichloroethane (100 mL) was stirred for 12 hrs. Sodium triacetoxyborohydride (1.09 g, 5.15 mmol) was added and the resulting mixture was stirred 4 hours at room temperature. Sodium hydroxide solution ([0.1N], 100 mL) was added, the organic layer was separated, treated with MgSO4, filtered and the solvent evaporated under reduced pressure to yield an oil. The oil was purified by column chromatography (10%-40% ethyl acetate/heptane) to yield a residue.

reactant | 3-amino-3-cyclohexyl-N-(3,3-dimethyl-butyl)-propionamide | 2.24 mmol, 0.57 g | NC(CC(=O)NCCC(C)(C)C)C1CCCCC1 | C15H30N2O
reactant | 5-nitro-2-phenoxy-pyridine-4-carbaldehyde | 2.35 mmol, 0.57 g | [N+](=O)([O-])C=1C(=CC(=NC1)OC1=CC=CC=C1)C=O | C12H8N2O4
reactant | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
reactant | Sodium triacetoxyborohydride | 5.15 mmol, 1.09 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | Sodium hydroxide | 0.1N, 100 mL | [OH-].[Na+]
product | 3-Cyclohexyl-N-(3,3-dimethyl-butyl)-3-[(5-nitro-2-phenoxy-pyridin-4-ylmethyl)-amino]-propionamide | C1(CCCCC1)C(CC(=O)NCCC(C)(C)C)NCC1=CC(=NC=C1[N+](=O)[O-])OC1=CC=CC=C1 | C27H38N4O4
